US06589977B1
To a solution of 2,3-bis(5-fluoro-1H-indol-3-yl)-N-methylmaleimide (60 mg, 0.16 mmol) in DMF (3 mL) was added a small amount of 10% palladium-carbon, and the whole was stirred at room temperature for 1 day under hydrogen atmosphere. The palladium-carbon was removed by filtration, and the filtrate was concentrated under reduced pressure. The residue was purified by column chromatography over silica gel (ethyl acetate:n-hexane=2:1) to obtain 3,4-bis(5-fluoro-1H-indol-3-yl)-1-methyl-2,5-dioxopyrrolidine (58.8 mg, 97.5%) as pale red solids. 1H-NMR(CDCl3): δ 3.11(s, 3H), 4.90(s, 2H), 6.74(dt, J=2.5, 9.0 Hz, 2H), 6.99(d, J=2.5 Hz, 2H), 7.01(dd, J=9.0, 2.5 Hz, 2H), 7.09(dd, J=9.0,4.6 Hz, 2H), 10.77(br s, 2H). IR(KBr): 3420, 1700, 1490, 1440, 1295, 940, 800 cm−1. MS m/z: 379(M+).

reactant | 2,3-bis(5-fluoro-1H-indol-3-yl)-N-methylmaleimide | 0.16 mmol, 60 mg | FC=1C=C2C(=CNC2=CC1)C=1C(=O)N(C(C1C1=CNC2=CC=C(C=C12)F)=O)C | C21H13F2N3O2
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
catalyst | palladium-carbon | [C].[Pd]
product | 3,4-bis(5-fluoro-1H-indol-3-yl)-1-methyl-2,5-dioxopyrrolidine | 58.8 mg, 97.5% | FC=1C=C2C(=CNC2=CC1)C1C(N(C(C1C1=CNC2=CC=C(C=C12)F)=O)C)=O | C21H15F2N3O2
